US07214802B2
3-[4-(6-amino-pyridin-3-yl)-[1,2,3]triazol-1-yl]-N-(5-tert-butyl-3-methanesulfonylamino-2-methoxy-phenyl)-4-methyl-benzamide
To a stirring suspension of 310 mg (0.719 mmol) of 3-azido-N-(5-tert-butyl-3-methanesulfonylamino-2-methoxy-phenyl)-4-methyl-benzamide in 2 mL of EtOH and 2 mL of water was added dropwise 4M NaOH until the mixture became homogeneous. A solution of 142 mg (0.719 mmol) of sodium ascorbate in 0.5 mL of water was added, followed by 100 mg (0.719 mmol) 2-amino-4-ethynyl pyridine in 1 mL of EtOH. Finally 0.72 mL of 0.1 M CuSO4 was added, and the resulting mixture was stirred vigorously for 14 h. The mixture was then diluted with 40 mL of water and HOAc was added until a precipitate formed and the pH was about 6. The precipitate was filtered and washed with water and hexanes. The solids were chromatographed (0–5% MeOH/0.5% NH4OH in CH2Cl2) to provide 321 mg (0.584 mmol; 81%) of the title compound. ESI MS m/z 548 [C27H31N7O4S—H]−.

reactant | 3-azido-N-(5-tert-butyl-3-methanesulfonylamino-2-methoxy-phenyl)-4-methyl-benzamide | 0.719 mmol, 310 mg | N(=[N+]=[N-])C=1C=C(C(=O)NC2=C(C(=CC(=C2)C(C)(C)C)NS(=O)(=O)C)OC)C=CC1C | C20H25N5O4S
reactant | NaOH | 4M | [OH-].[Na+]
reactant | sodium ascorbate | 0.719 mmol, 142 mg | O=C1C(O)=C([O-])[C@H](O1)[C@@H](O)CO.[Na+]
reactant | 2-amino-4-ethynyl pyridine | 0.719 mmol, 100 mg | NC1=NC=CC(=C1)C#C | C7H6N2
solvent | EtOH | 2 mL | CCO | C2H6O
solvent | water | 2 mL | O | H2O
solvent | water | 0.5 mL | O | H2O
solvent | EtOH | 1 mL | CCO | C2H6O
solvent | water | 40 mL | O | H2O
solvent | HOAc | CC(=O)O | C2H4O2
catalyst | CuSO4 | 0.1 M, 0.72 mL | [O-]S(=O)(=O)[O-].[Cu+2]
product | 3-[4-(6-amino-pyridin-3-yl)-[1,2,3]triazol-1-yl]-N-(5-tert-butyl-3-methanesulfonylamino-2-methoxy-phenyl)-4-methyl-benzamide | NC1=CC=C(C=N1)C=1N=NN(C1)C=1C=C(C(=O)NC2=C(C(=CC(=C2)C(C)(C)C)NS(=O)(=O)C)OC)C=CC1C | C27H31N7O4S
